US04698340
A mixture of 4-hydroxy-3-nitrobenzaldehyde (43.5 g), acetylacetone (26 g), acetic acid (3.12 g) and piperidine (1.03 ml) in benzene (26 ml) was refluxed for 1 hours under azeotropic dehydration. To the reaction mixture was added 100 ml of diethyl ether. The mixture was washed with water (100 ml) and a saturated aqueous solution of sodium chloride (50 ml), dried over magnesium sulfate and evaporated in vacuo to afford 2-(4-hydroxy-3-nitrobenzylidene)acetylacetone (55.0 g).

reactant | 4-hydroxy-3-nitrobenzaldehyde | 43.5 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | acetylacetone | 26 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | acetic acid | 3.12 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 1.03 ml | N1CCCCC1 | C5H11N
solvent | benzene | 26 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(4-hydroxy-3-nitrobenzylidene)acetylacetone | 55.0 g | OC1=C(C=C(C=CC(=O)CC(C)=O)C=C1)[N+](=O)[O-] | C12H11NO5
